US07205291B2
4-Nitrobenzyl (5R,6S)-3-(4-hydroxyphenyl)-7-oxo-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (200 mg) prepared in the above step was dissolved in dichloromethane (4.5 ml). Thereto were added under ice cooling pyridine in a catalytic amount and trichloroacetyl isocyanate (106 mg), and the mixture was stirred for 1 hour. The reaction mixture was poured into a mixture of ice water and ethyl acetate. The mixture was extracted and separated with a separating funnel. The organic layer was washed with cold water (twice) and a cold saturated aqueous sodium chloride solution in the order, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was dissolved in methanol (13.5 ml) and thereto silica gel (2.7 g) was added. The mixture was stirred for 1.5 hours and then, kept in a refrigerator overnight. After the reaction mixture was diluted with chloroform, silica gel was removed by filtration. The solution was washed with chloroform/methanol (=4/1) and the solvent was removed under reduced pressure. The residue was purified by silica gel thin layer chromatography (chloroform/acetone=9/1) to give 4-nitrobenzyl (5R,6S)-3-{4-[(aminocarbonyl)oxy]phenyl}-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (113 mg).

reactant | 4-Nitrobenzyl (5R,6S)-3-(4-hydroxyphenyl)-7-oxo-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 200 mg | OC1=CC=C(C=C1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](CC)(CC)CC)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C28H34N2O7Si
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | trichloroacetyl isocyanate | 106 mg | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 4.5 ml | ClCCl | CH2Cl2
product | 4-nitrobenzyl (5R,6S)-3-{4-[(aminocarbonyl)oxy]phenyl}-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 113 mg | NC(=O)OC1=CC=C(C=C1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](CC)(CC)CC)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C29H35N3O8Si
